US04041173
By this method (schematically shown above) a 2-, 3- or 4- substituted phenylacetic acid (I) is reacted with benzene 1,2,4-tri-carboxylic anhydride (II) in about equimolar amounts at a temperature of about 200° to 280° C. in the presence of a suitable catalyst such as potassium acetate, sodium acetate or the sodium or potassium salt of the phenylacetic acid used. This results in a mixture of 3-(2-, 3- or 4-substituted benzylidene) phthalide-6-carboxylic acid (IIIa) and -5-carboxylic acid (IIIb).

reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | potassium | [K] | K
reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
product | phthalide-6-carboxylic acid | C1(=O)OCC2=CC=C(C=C12)C(=O)O | C9H6O4
